US05432195
Step 1: 5-Isopropyl-2-(4-formylphenoxyacetyl)benzofuran
p-Hydroxybenzaldehyde (12.2 g) was dissolved in 200 ml of N,N-dimethylformamide, 13.8 g of anhydrous potassium carbonate was added and, with stirring at room temperature, 28.1 g of 2-bromoacetyl-5-isopropylbenzofuran was added thereto within 30 minutes. The mixture was stirred at room temperature for 2 hours more. The reaction mixture was poured into aqueous solution of hydrochloric acid and the resulting crystals were collected by filtration and washed with water. The crystals were then dissolved in ethyl acetate, the solution was washed with water and the ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated in vacuo whereupon the residue was crystallized. Ether was added to the crystals and then collected by filtraton to give 18.1 g of crystals.

reactant | p-Hydroxybenzaldehyde | 12.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoacetyl-5-isopropylbenzofuran | 28.1 g | BrCC(=O)C=1OC2=C(C1)C=C(C=C2)C(C)C | C13H13BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-Isopropyl-2-(4-formylphenoxyacetyl)benzofuran | 18.1 g | C(C)(C)C=1C=CC2=C(C=C(O2)C(COC2=CC=C(C=C2)C=O)=O)C1 | C20H18O4
